US08013156B2
The crude 1-[3-(Pyridin-4-ylmethoxy)pyridin-2-yl]-piperazine trifluoroacetic acid salt (˜500 mg) was dissolved in 25 mL of tetrahydrofuran along with 2 g of trisamine resin. The suspension was stirred for 1 hr and the resin was removed by filtration. The filtrate was concentrated under vacuum. The free-based material was dissolved in 5 mL of dichloromethane. To this solution was added triethylamine (150 μL, 1.08 mmol) and 3,5-bis(trifluoromethyl)phenyl isocyanate (150 μL, 0.864 mmol). The reaction was stirred at room temperature for 1 hr. The reaction mixture was concentrated under vacuum and re-dissolved in 25 mL ethyl acetate. The reaction mixture was washed 3 times each with 25 mL portions of water, 0.05 M HCl and saturated aqueous sodium chloride. The organic fraction was dried with magnesium sulfate and concentrated under vacuum. The residue was purified by flash chromatography with a gradient of 0% to 10% methanol in ethyl acetate with 5% triethylamine, giving N-[3,5-bis(trifluoromethyl)phenyl]-4-{3-[(pyridin-4-ylmethyl)oxy]pyridin-2-yl}piperazine-1-carboxamide (14 mg). 1H NMR (DMSO-d6) δ 9.24 (s, 1H), 8.60 (d, 2H), 8.22 (s, 2H), 7.84 (d, 1H), 7.58 (s, 1H), 7.46 (d, 2H), 7.33 (d, 1H), 6.92 (dd, 1H), 5.23 (s, 2H), 3.62-3.68 (m, 4H) 3.37-3.41 (m, 4H) ppm.

reactant | 1-[3-(Pyridin-4-ylmethoxy)pyridin-2-yl]-piperazine trifluoroacetic acid salt | ˜500 mg | FC(C(=O)O)(F)F.N1=CC=C(C=C1)COC=1C(=NC=CC1)N1CCNCC1
reactant | trisamine | 2 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | triethylamine | 1.08 mmol, 150 μL | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | 0.864 mmol, 150 μL | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-{3-[(pyridin-4-ylmethyl)oxy]pyridin-2-yl}piperazine-1-carboxamide | 14 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CC=C1OCC1=CC=NC=C1)(F)F | C24H21F6N5O2
